US08138178B2
To a solution of 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propyl methanesulfonate (234 mg, 0.24 mmol) in CH2Cl2 (3 mL) was added NaH (82 mg, 3.4 mmol) at 0° C. The mixture was stirred at rt for 30 min. Then N-methylacetamide (204 mg, 2.8 mmol) was added the above mixture. The formed mixture was stirred at 80° C. for 5 h. After the reaction was over, the reaction was quenched with water and the mixture was extracted with EtOAc. The combined organic phase was concentrated to give the crude product, which was purified by preparative TLC to give N-(3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propyl)-N-methylacetamide (150 mg, 68%). LC-MS Method 2 tR=1.50 min, m/z=497, 495, 475, 473. 1H NMR (400 MHz, CDCl3): δ=1.41 (m, 1H), 1.48 (t, 3H), 1.73 (m, 1H), 1.83-1.95 (m, 2H), 2.01 (m, 3H), 2.1-2.3 (m, 3H), 2.71 (m, 1H), 2.81 (s, 3H), 3.1 (m, 1H), 3.2 (m, 1H), 5.5 (m, 1H), 6.72 (m, 2H), 7.10 (m, 2H), 7.20 (m, 2H), 7.37 (m, 3H).

reactant | 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propyl methanesulfonate | 0.24 mmol, 234 mg | CS(=O)(=O)OCCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C22H26BrNO5S
reactant | NaH | 3.4 mmol, 82 mg | [H-].[Na+]
reactant | N-methylacetamide | 2.8 mmol, 204 mg | CNC(C)=O | C3H7NO
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propyl)-N-methylacetamide | 150 mg, 68% | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CCCN(C(C)=O)C)=O | C24H29BrN2O3
